US08431575B2
To a stirred solution of (E)-but-2-enedioic acid diethyl ester (23.23 mmol, 4 g) in DCM (50 mL) at 0° C. was added benzyl-methoxymethyl-trimethylsilanylmethyl-amine (21.06 mmol, 5 g) followed by drop wise addition of a solution of TFA in DCM (0.1 mL of TFA in 1 mL of DCM) over 10 min. After completion of addition, the cold bath was removed, and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was diluted with DCM, washed with a saturated solution of sodium bicarbonate, the organic layer was dried and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (25 mL) and added di-tert-butyl dicarbonate (36.66 mmol, 8 g) followed by 10% palladium on carbon (1 g, wet). The resultant reaction mixture was subjected to catalytic hydrogenation using hydrogen gas at 55 psi for 18 h with stirring. The catalyst was filtered through a pad of celite, the celite pad was washed with ethyl acetate (200 mL), and the combined filtrate was concentrated. The residue was purified by flash silica gel column chromatography by eluting with 20% ethyl acetate in hexanes to provide (±)-trans-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester.

reactant | (E)-but-2-enedioic acid diethyl ester | 23.23 mmol, 4 g | C(C)OC(\C=C\C(=O)OCC)=O | C8H12O4
reactant | benzyl-methoxymethyl-trimethylsilanylmethyl-amine | 21.06 mmol, 5 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | di-tert-butyl dicarbonate | 36.66 mmol, 8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.1 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | (±)-trans-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)C(=O)OC(C)(C)C | C15H25NO6
